US09227963B2
5-methyl-1-(3-methyl-2-oxa-tricyclo[3.3.1.13,7]dec-1-ylmethyl)-1H-pyrrole-2-carbonitrile
The title compound was prepared by substituting 1-hydroxymethyl-3-methyl-2-oxadamantane for 1-adamantanemethanol and 2-cyano-5-methylpyrrole for 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole in EXAMPLE 2A.

reactant | 1-adamantanemethanol | C12(CC3CC(CC(C1)C3)C2)CO | C11H18O
reactant | 2-cyano-5-methylpyrrole | C(#N)C=1NC(=CC1)C | C6H6N2
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1=NNC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H19BN2O2
product | 5-methyl-1-(3-methyl-2-oxa-tricyclo[3.3.1.13,7]dec-1-ylmethyl)-1H-pyrrole-2-carbonitrile | CC1=CC=C(N1CC12OC3(CC(CC(C1)C3)C2)C)C#N | C17H22N2O
